US08486952B2
A flask was charged with (3,5-difluorophenyl)magnesium bromide (149 mL, 149 mmol) and copper (I) iodide (1.901 g, 9.98 mmol). To this reaction mixture, 6-oxabicyclo[3.1.0]hexane (12.53 g, 149 mmol) dissolved in THF (25 mL) was added dropwise. The reaction mixture warmed upon the addition of the epoxide. The reaction was stirred at rt for 2 h at rt. The reaction mixture was quenched by the addition of a solution of ammonium chloride. Ether was added and the organic layer was collected, dried (Na2SO4) and concentrated. The crude product was purified by column chromatography on silica gel to afford (1S,2R)-2-(3,5-difluorophenyl)cyclopentanol (26.5 g, 134 mmol, 90% yield).

reactant | (3,5-difluorophenyl)magnesium bromide | 149 mmol, 149 mL | FC=1C=C(C=C(C1)F)[Mg]Br
reactant | 6-oxabicyclo[3.1.0]hexane | 149 mmol, 12.53 g | C12CCCC2O1 | C5H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | copper (I) iodide | 9.98 mmol, 1.901 g | [Cu]I
product | (1S,2R)-2-(3,5-difluorophenyl)cyclopentanol | 134 mmol, 26.5 g, 90% yield | FC=1C=C(C=C(C1)F)[C@@H]1[C@H](CCC1)O | C11H12F2O
